US07122550B2
6-Chloro-N-[(1S)-1-(4-methoxyphenyl)ethyl]pyrazin-2-amine
In a procedure analogous to Example 1, reaction of 4-methoxy-α-(S)-methylbenzylamine (0.70 mg, 4.6 mmol) and 2,6-dichloropyrazine (0.6259 g, 4.20 mmol) furnished the product (873 mg, 79%).

reactant | 4-methoxy-α-(S)-methylbenzylamine | 4.6 mmol, 0.70 mg | COC1=CC=C([C@H](C)N)C=C1 | C9H13NO
reactant | 2,6-dichloropyrazine | 4.20 mmol, 0.6259 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 6-Chloro-N-[(1S)-1-(4-methoxyphenyl)ethyl]pyrazin-2-amine | 873 mg, 79% | ClC1=CN=CC(=N1)N[C@@H](C)C1=CC=C(C=C1)OC | C13H14ClN3O
